US06191150B1
(2R,3S)-3-(2-Tetrahydropyranyloxyamino)-2-(cyclohexylmethyl)hexanoic acid (2.00 g, 6.11 mmol) is dissolved in 15 mL of pyridine. Formic acetic anhydride (1.08 mL, 12.2 mmol) is added at 25° C. The reaction is stirred for an additional 6 h and then is poured into 50 mL of cold 1 M hydrochloric acid. The organics are extracted with two 250-mL portions of dichloromethane. The combined organic phases are then washed with saturated aqueous sodium chloride, dried over sodium sulfate, and concentrated in vacuo to afford (2R,3S)-3-(formyl-2-tetrahydropyranyloxyamino)-2-(cyclohexylmethyl)hexanoic acid (2.17 g, 100% yield). APCI-MS m/z 378 (M+Na)+, 354 (M−H)−.

reactant | (2R,3S)-3-(2-Tetrahydropyranyloxyamino)-2-(cyclohexylmethyl)hexanoic acid | 6.11 mmol, 2.00 g | O1C(CCCC1)ON[C@H]([C@H](C(=O)O)CC1CCCCC1)CCC | C18H33NO4
reactant | Formic acetic anhydride | 12.2 mmol, 1.08 mL | C(C)(=O)OC=O | C3H4O3
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | (2R,3S)-3-(formyl-2-tetrahydropyranyloxyamino)-2-(cyclohexylmethyl)hexanoic acid | 2.17 g, 100% yield | C(=O)N([C@H]([C@H](C(=O)O)CC1CCCCC1)CCC)OC1OCCCC1 | C19H33NO5
